US06498165B1
2-[3-Nitrobenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 3-nitrobenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 347.0 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.58 (br s, 1H); 8.46 (d, J=5.5 Hz, 1H); 8.31 (s, 1H); 8.17 (d, J=8.5 Hz, 1H); 8.00 (br s, 1H); 7.85 (d, J=8.0 Hz, 1H); 7.77 (d, J=7.6 Hz, 1H); 7.56 (t, J=7.9 Hz, 1H); 7.38 (m, 2H); 6.90 (d, J=5.5 Hz, 1H); 5.94 (br s, 1H); 4.87 (d, J=6.2 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 3-nitrobenzylamine | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
product | 2-[3-Nitrobenzylamino]-4-[benzimidazol-1-yl]pyrimidine | [N+](=O)([O-])C=1C=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=CC1 | C18H14N6O2
